US09216980B2
Step 1: 6-((Trimethylsilyl)ethynyl)-3-(4-piperidin-1-ylmethylphenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole
A mixture of 6-bromo-3-(4-piperidin-1-ylmethylphenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole (170 mg, 0.40 mmol), copper(I) iodide (7.7 mg, 0.04 mmol), and N,N-diisopropylethylamine (0.21 mL, 1.2 mmol) in anhydrous 1,4-dioxane (3 mL) was degassed and flushed with nitrogen. Tetrakis(triphenylphosphine)palladium(0) (47 mg, 0.04 mmol) and (trimethylsilyl)acetylene (0.34 mL, 2.4 mmol) were added and the reaction mixture heated at 110° C. for 1 h. The cooled reaction mixture was diluted with DCM (20 mL) and methanol (2 mL) and washed with water (15 mL). The organic phase was separated, dried over sodium sulfate, filtered and evaporated in vacuo to afford a residue that was purified by flash chromotagraphy (silica, 10 g column, Biotage, 0-10% methanol in (DCM containing 1% 7M ammonia in methanol) to afford a brown residue that was taken to the next step without further purification.

reactant | 6-bromo-3-(4-piperidin-1-ylmethylphenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 0.40 mmol, 170 mg | BrC1=CC=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)CN3CCCCC3 | C22H21BrN4
reactant | N,N-diisopropylethylamine | 1.2 mmol, 0.21 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (trimethylsilyl)acetylene | 2.4 mmol, 0.34 mL | C[Si](C)(C)C#C | C5H10Si
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 2 mL | CO | CH4O
catalyst | copper(I) iodide | 0.04 mmol, 7.7 mg | [Cu]I
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.04 mmol, 47 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-((Trimethylsilyl)ethynyl)-3-(4-piperidin-1-ylmethylphenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | C[Si](C)(C)C#CC1=CC=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)CN3CCCCC3 | C27H30N4Si
